US09216999B2
N-Cyclohexyl-5-(methylsulfonyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-amine
N-Cyclohexyl-5-(methylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-amine (7.0 mg, 0.024 mmol) in N,N-dimethylformamide (1 mL) was stirred with sodium hydride (55 wt % dispersion in mineral oil, 3.0 mg, 0.069 mmol) and [2-(chloromethoxy)ethyl]trimethylsilane (10 μL, 0.057 mmol) at room temperature for 2 hours. After addition of saturated aqueous sodium chloride, the reaction mixture was extracted with ethyl acetate, and the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1→3/1 (v/v)) to give the title compound as a colorless oil (6.1 mg, yield 60%).

reactant | N-Cyclohexyl-5-(methylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-amine | 0.024 mmol, 7.0 mg | C1(CCCCC1)NC=1C2=C(N=CC1S(=O)(=O)C)NC=C2 | C14H19N3O2S
reactant | sodium hydride | 0.069 mmol, 3.0 mg | [H-].[Na+]
reactant | [2-(chloromethoxy)ethyl]trimethylsilane | 0.057 mmol, 10 μL | ClCOCC[Si](C)(C)C | C6H15ClOSi
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | N-Cyclohexyl-5-(methylsulfonyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-amine | 6.1 mg, yield 60% | C1(CCCCC1)NC=1C2=C(N=CC1S(=O)(=O)C)N(C=C2)COCC[Si](C)(C)C | C20H33N3O3SSi
